US08076487B2
(1) Production of 2-oxo-6-(trifluoromethyl)-2H-pyrane-3-carboxylic acid ethyl ester
Diethyl malonate (33.7 g, 0.2 mol) was dissolved in acetonitrile (200 mL), and magnesium chloride (21.4 g, 0.22 mol) was slowly added thereto at 0 to 5° C. After 10 minutes, triethylamine (44.5 g, 0.44 mol) was added dropwise thereto at 0 to 5° C., and the mixture was allowed to react for 1 hour at room temperature. To the reaction mixture, 4-ethoxy-1,1,1-trifluoro-3-butene-2-one (37.0 g, 0.22 mol) was added dropwise at 0 to 5° C., and the mixture was allowed to react for 1 hour at room temperature. The reaction mixture was poured into diluted hydrochloric acid, and extracted with ethyl acetate. The organic layer was washed with water, dried, and concentrated. Thus obtained oily product was dissolved in toluene (100 mL), p-toluenesulfonic acid (5 g) was added thereto, and the mixture was allowed to react for 3 hours under heating. After cooling, the solvent was distilled off, and thus obtained crystal was recrystallized from ethyl acetate, to obtain 31.8 g of a desired product (yield: 67%).

reactant | Diethyl malonate | 0.2 mol, 33.7 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | magnesium chloride | 0.22 mol, 21.4 g | [Cl-].[Mg+2].[Cl-]
reactant | triethylamine | 0.44 mol, 44.5 g | C(C)N(CC)CC | C6H15N
reactant | 4-ethoxy-1,1,1-trifluoro-3-butene-2-one | 0.22 mol, 37.0 g | C(C)OC=CC(C(F)(F)F)=O | C6H7F3O2
reactant | hydrochloric acid | Cl | ClH
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
product | 2-oxo-6-(trifluoromethyl)-2H-pyrane-3-carboxylic acid ethyl ester | 31.8 g, yield: 67% | C(C)OC(=O)C=1C(OC(=CC1)C(F)(F)F)=O | C9H7F3O4
